US09284323B2
Preparation of (S)-2-(7-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyethyl pivalate:
To a solution of (S)-2-(7-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyethyl pivalate (1.70 g, 3.89 mmol) in CH2Cl2 (20 mL) at −78° C. was added iPr2NEt (7.8 mmol) and trifluoromethanesulfonic anhydride (5 mmol). After 30 min, a saturated solution of NH4Cl was added. The layers were separated, and the organic layer was dried, filtered, and concentrated in vacuo. The crude material was purified by column chromatography (EtOAc/hexanes) to give the desired product. 1H-NMR: 400 MHz, (CDCl3) δ: 8.21 (s, 1H), 7.63 (m, 2H), 7.26 (s, 1H), 5.47 (dd, J=10, 3 Hz, 1H), 4.62 (dd, J=12, 10 Hz, 1H), 4.14 (dd, J=12, 3 Hz, 1H), 2.75 (s, 3H), 1.22 (s, 9H) 1.11 (s, 9H).

reactant | (S)-2-(7-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyethyl pivalate | 3.89 mmol, 1.70 g | C(C(C)(C)C)(=O)OC[C@@H](OC(C)(C)C)C1=C(C2=CC(=CC=C2C=C1C)Br)O | C22H29BrO4
reactant | iPr2NEt | 7.8 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 5 mmol | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(7-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyethyl pivalate | C(C(C)(C)C)(=O)OC[C@@H](OC(C)(C)C)C1=C(C2=CC(=CC=C2C=C1C)Br)OS(=O)(=O)C(F)(F)F | C23H28BrF3O6S
